US04342771
Methyl 2-Methoxypyridine-3-carboxylate
Thionyl chloride (50 ml.) was added to 2-methoxypyridine-3-carboxylic acid (5 g.) in 50 ml. of carbon tetrachloride and the mixture refluxed for 2 hours. The reaction mixture was cooled, evaporated to solids and chased with multiple portions of fresh carbon tetrachloride. The resulting acid chloride hydrochloride was dissolved in excess methanol (50 ml.), stirred for 16 hours at room temperature, then evaporated an oil and taken up in chloroform. The chloroform solution was washed with two portions of saturated sodium bicarbonate and then one portion of brine, dried over anhydrous magnesium sulfate, filtered and evaporated to yield title product as an oil [4.63 g.; pnmr/CDCl3 /delta (ppm): 3.9 and 4.1 (2s, 6H), 6.9 (m, 1H), 8.2 (m, 2H)].

reactant | Thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxypyridine-3-carboxylic acid | 5 g | COC1=NC=CC=C1C(=O)O | C7H7NO3
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-Methoxypyridine-3-carboxylate | COC1=NC=CC=C1C(=O)OC | C8H9NO3
